US08624034B2
Step A) (2R)-4-(5-Fluoro-3-methoxy-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoic acid
Potassium hydroxide (100 mg, 1.78 mmol) was added to a solution of ethyl (2R)-4-(3,5-difluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (77 mg, 0.19 mmol) in tetrahydrofuran:methanol:water (2:2:1 10 mL). The solution was heated to 50° C. and stirred at this temperature for 4 h. The reaction was concentrated and the residue was dissolved in 1 N aq NaOH (50 mL). The aqueous layer was washed with EtOAc (3×50 mL) and acidified to a pH of 3 using concentrated HCl. The solid was collected via filtration and was washed with water (30 mL) and hexanes (30 mL) to afford the title compound as a white solid (70 mg, 95%). MS (LCMS) m/z 398.0 (M+1). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.69-1.79 (m, 3H) 2.30-2.46 (m, 1H) 2.55-2.72 (m, 1H) 3.18 (s, 3H) 3.66 (s, 3H) 4.08-4.22 (m, 1H) 4.23-4.38 (m, 1H) 7.39-7.51 (m, 5H) 7.60 (d, 1H).

reactant | Potassium hydroxide | 1.78 mmol, 100 mg | [OH-].[K+]
reactant | ethyl (2R)-4-(3,5-difluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 0.19 mmol, 77 mg | FC=1C(N(C=C(C1C1=CC=CC=C1)F)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O | C19H21F2NO5S
reactant | tetrahydrofuran methanol water | 10 mL | O1CCCC1.CO.O
product | (2R)-4-(5-Fluoro-3-methoxy-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoic acid | 70 mg, 95% | FC=1C(=C(C(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)OC)C1=CC=CC=C1 | C18H20FNO6S
